US07902252B2
4.36. Synthesis of 6-(3-cyanophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (117)
The title compound was synthesized from methyl 6-(3-cyanophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.027 g, 0.10 mmol) and lithium hydroxide (0.044 g, 1.0 mmol in 1 mL water), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (5-6 mL) was used. The resulting product was purified by reverse phase HPLC, eluting with a gradient of 40-80% MeOH: water (with 0.1% formic acid) to afford a light pink solid: 8.6 mg (34% yield). 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.21-2.30 (m, 1H) 2.65 (s, 1H) 2.76 (s, 1H) 2.93-3.03 (m, 1H) 4.33 (s, 1H) 6.68 (s, 1H) 7.40-7.44 (m, 1H) 7.44-7.49 (m, 2H) 7.54-7.58 (m, 1H); LC-MS ESI− 251.2 (m−H); HPLC (UV=97.75%), (ELSD=100%).

reactant | methyl 6-(3-cyanophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.10 mmol, 0.027 g | C(#N)C=1C=C(C=CC1)C1CCC2=C1NC(=C2)C(=O)OC | C16H14N2O2
reactant | lithium hydroxide | 1.0 mmol, 1 mL, 0.044 g | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 5-6 mL | C1CCOC1 | C4H8O
product | 6-(3-cyanophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 34% yield | C(#N)C=1C=C(C=CC1)C1CCC2=C1NC(=C2)C(=O)O | C15H12N2O2
